US08563575B2
1-ethyl-3-[1-(1-methyl-1H-benzimidazol-2-yl)-2,3-dihydro-1H-indol-5-yl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
A mixture of 3-(2,3-dihydro-1H-indol-5-yl)-1-ethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (100 mg) and 2-chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole (101 mg) in NMP (2 mL) was stirred at 120° C. for 10 h, treated with saturated NaHCO3 solution and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated in vacuo. The residue was dissolved in DMF (2 mL), and then iodomethane (0.022 mL) and Cs2CO3 (0.176 g) were added. The mixture was stirred at room temperature for 3 h, treated with water and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated in vacuo. The residue was suspended in CH3CN and the precipitate was filtered off. The residue was purified by prep. HPLC, and then chromatographed on silica gel eluting with AcOEt/Hexane. Crystallization from AcOEt/Hexane gave the title compound (12 mg).

reactant | 3-(2,3-dihydro-1H-indol-5-yl)-1-ethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 100 mg | N1CCC2=CC(=CC=C12)N1C(N(C=2C1=NC=CC2)CC)=O | C16H16N4O
reactant | 2-chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole | 101 mg | ClC1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2 | C13H19ClN2OSi
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | 1-ethyl-3-[1-(1-methyl-1H-benzimidazol-2-yl)-2,3-dihydro-1H-indol-5-yl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 12 mg | C(C)N1C(N(C2=NC=CC=C21)C=2C=C1CCN(C1=CC2)C2=NC1=C(N2C)C=CC=C1)=O | C24H22N6O
